US07732365B2
(+)-1-(4-Methoxyphenyl)-1-phenoxy-2-propene:
(−)-i-Propyl allyloxybenzene (Evans, P. A.; Leahy, D. K. J. Am. Chem. Soc. 2000, 122, 5012): The general procedure was followed with lithium phenoxide (200 mg, 2.0 mmol) and 2-hexenyl methylcarbonate (160 mg, 1.0 mmol) in THF (2 mL). The reaction was conducted at 50° C. for 14 h. 1H NMR analysis of the mixture indicated the ratio of regioisomers to be 92/8. The residue was purified by flash chromatography on silica gel (0-1% Et2O/Hexanes) to afford 162 mg of the title compound as an oil. [93%, Rf 0.90 (5% Et2O/Hexanes)]. 1H NMR (500 MHz, CDCl3) δ 7.23 (m, 2H), 6.91 (m, 3H), 5.84 (ddd, J=17.3, 10.6, 6.2 Hz, 1H), 5.25 (d, J=17.4 Hz, 1H), 5.20 (d, J=10.6 Hz, 1H), 4.59 (dt, J=6.8, 6.0 Hz, 1H), 1.83-1.74 (m, 1H), 1.68-1.61 (m, 1H), 1.58-1.38 (m, 2H), 0.96 (t, J=7.4 Hz, 3H); 13C NMR (125.77 MHz, CDCl3) δ 158.4, 138.2, 129.3, 120.6, 116.2, 116.0, 78.6, 37.7, 18.6, 14.0. HPLC analysis indicated an enantiomeric excess of 92% [Chiralcel® OD-H column, eluting with 99.9:0.1 hexane/i-PrOH, 0.6 mL/min, 220 nm; major enantiomer tR, 13.3, minor enantiomer tR 15.8 min].

reactant | (−)-i-Propyl allyloxybenzene | C(C)(C)C1=C(C=CC=C1)OCC=C | C12H16O
reactant | lithium phenoxide | 2.0 mmol, 200 mg | [O-]C1=CC=CC=C1.[Li+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
product | (+)-1-(4-Methoxyphenyl)-1-phenoxy-2-propene | 162 mg | COC1=CC=C(C=C1)C(C=C)OC1=CC=CC=C1 | C16H16O2
